US05344843
A mixture of 4-[[2-(2-naphthalenylthio)ethyl]oxy]-alpha-oxobenzeneacetic acid methyl ester (0.495 g) in methanol and 0.5N sodium hydroxide (5 mL) was treated as in Example 19. Extraction with dichloromethane provided material which was crystallized from diethyl ether-hexane to give 0.4 g of colorless 4-[[2-(2-naphthalenylthio)ethyl]oxy]-alpha-oxobenzeneacetic acid, mp 121°-123° C.

reactant | 4-[[2-(2-naphthalenylthio)ethyl]oxy]-alpha-oxobenzeneacetic acid methyl ester | 0.495 g | COC(C(C1=CC=C(C=C1)OCCSC1=CC2=CC=CC=C2C=C1)=O)=O | C21H18O4S
solvent | methanol | CO | CH4O
solvent | sodium hydroxide | 0.5N, 5 mL | [OH-].[Na+]
product | 4-[[2-(2-naphthalenylthio)ethyl]oxy]-alpha-oxobenzeneacetic acid | 0.4 g | C1=C(C=CC2=CC=CC=C12)SCCOC1=CC=C(C=C1)C(C(=O)O)=O | C20H16O4S
